US07282511B2
5-(4-Chlorophenyl)-8-methyl-6,7,8,9-tetrahydro-1-H-pyrrolo[3.2-h]isoquinoline-2,3-dione-3-oxime hydrochloric acid salt (Compound G-1)
A mixture of 5-(4-chlorophenyl)-8-methyl-6,7,8,9-tetrahydro-1-H-pyrrolo[3.2-h]isoquinoline-2,3-dione (0.50 g, 1.53 mmol), hydroxylamine hydrochloride (0.5 g, 7.2 mmol) and ethanol (5 ml, 96%) was stirred at room-temperature for 15 minutes. The colour shifted from yellow to red and the product precipitated. The product was filtered and 0.44 g (76%) was isolated. Mp decomp. 300-305° C.

reactant | 5-(4-chlorophenyl)-8-methyl-6,7,8,9-tetrahydro-1-H-pyrrolo[3.2-h]isoquinoline-2,3-dione | 1.53 mmol, 0.50 g | ClC1=CC=C(C=C1)C=1C=2CCN(CC2C2=C(C1)C(C(N2)=O)=O)C | C18H15ClN2O2
reactant | hydroxylamine hydrochloride | 7.2 mmol, 0.5 g | Cl.NO
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-(4-Chlorophenyl)-8-methyl-6,7,8,9-tetrahydro-1-H-pyrrolo[3.2-h]isoquinoline-2,3-dione-3-oxime hydrochloric acid salt | Cl.ClC1=CC=C(C=C1)C=1C=2CCN(CC2C2=C(C1)C(C(N2)=O)=NO)C | InChI=1S/C18H16ClN3O2.ClH/c1-22-7-6-12-13(10-2-4-11(19)5-3-10)8-14-16(15(12)9-22)20-18(23)17(14)21-24;/h2-5,8,24H,6-7,9H2,1H3,(H,20,21,23);1H
